US09260451B2
Production of 3-nitro[1]benzothieno[3,2-b][1]benzothiophene (Compound 2-58)
Except that 3-(phenylsulfenyl)-2-iodobenzo[b]thiophene was replaced with 3-((p-nitrophenyl)sulfenyl)-2-iodobenzo[b]thiophene, the reaction was implemented in the same way as in Example 3. Purification was implemented by column chromatography (silica gel, CHCl3, Rf: 0.9), so that a yellow solid was produced (yield: 81%).

reactant | 3-(phenylsulfenyl)-2-iodobenzo[b]thiophene | C1(=CC=CC=C1)SC=1C2=C(SC1I)C=CC=C2 | C14H9IS2
reactant | 3-((p-nitrophenyl)sulfenyl)-2-iodobenzo[b]thiophene | [N+](=O)([O-])C1=CC=C(C=C1)SC=1C2=C(SC1I)C=CC=C2 | C14H8INO2S2
product | 3-nitro[1]benzothieno[3,2-b][1]benzothiophene | yield: 81% | [N+](=O)([O-])C=1C=CC2=C(C1)C=1SC3=C(C1S2)C=CC=C3 | C14H7NO2S2
